US08334301B2
4,5-bis(2-fluorophenyl)thiophene-2-carbaldehyde
A suspension of 4,5-dibromothiophene-2-carbaldehyde (2.0 g), (2-fluorophenyl)boronic acid (1.6 g), tetrakis(triphenylphosphine)palladium (0) (855 mg) and sodium carbonate (2.0 g) in 1,2-dimethoxyethane (32 mL) and water (8 mL) was stirred at 80° C. for 6 hr under a nitrogen atmosphere. The reaction mixture was cooled to room temperature, water was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium hydrogen carbonate solution, water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=99:1→9:1→17:3) to give the title compound as a colorless amorphous (yield 310 mg, yield 14%).

reactant | 4,5-dibromothiophene-2-carbaldehyde | 2.0 g | BrC=1C=C(SC1Br)C=O | C5H2Br2OS
reactant | (2-fluorophenyl)boronic acid | 1.6 g | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
reactant | sodium carbonate | 2.0 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 32 mL | COCCOC | C4H10O2
solvent | water | 8 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 855 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4,5-bis(2-fluorophenyl)thiophene-2-carbaldehyde | yield 14% | FC1=C(C=CC=C1)C=1C=C(SC1C1=C(C=CC=C1)F)C=O | C17H10F2OS
